US08703761B2
B. (S)-1-Methyl-pyrrolidine-2-carboxylic acid {1-[1-benzyl-5-(4-fluoro-phenyl)-1H-[1,2,4]-triazol-3-ylcarbamoyl]-1-methyl-ethyl}-amide
A 100 mL rbf was charged DCM (14.29 ml) followed by addition of 2-amino-N-(1-benzyl-5-(4-fluorophenyl)-1H-1,2,4-triazol-3-yl)-2-methylpropanamide (1.000 g, 2.83 mmol) and (S)-1-methylpyrrolidine-2-carboxylic acid (0.402 g, 3.11 mmol). And it was stirred at room temperature for 10 min, the clear solution save for a couple of particles, was placed in an ice bath at 2° C. Then HATU (2.152 g, 5.66 mmol) and triethylamine (0.789 ml, 5.66 mmol) were added. The yellow semi-solution was allowed to stir at 2° C. for 5 h. It was allowed to warm to room temperature over night. It was diluted with DCM (25 mL) and H2O (30 mL). The white precipitates were collected by filtration and washed with 1:1 water/sat. NaHCO3 solution. (2×60 mL), brine (2×40 mL). This afforded the title compound 1H NMR (400 MHz, DMSO-d6) d ppm 1.53 (d, J=1.52 Hz, 6H) 1.66-1.78 (m, 3H) 1.96-2.13 (m, 1H) 2.21-2.29 (m, 1H) 2.30 (s, 3H) 2.61-2.70 (m, 1H) 2.99-3.09 (m, 1H) 5.43 (s, 2H) 7.13 (d, J=6.95 Hz, 2H) 7.26-7.43 (m, 5H) 7.68-7.75 (m, 2H) 7.97 (s, 1H) 10.21 (s, 1H). Theoretical mass 464.23. found 464.23. MS (m/z) 465.00 M (+1), tR=1.23, Meth A. ee: 95%, using 30% EtOH Heptane.

reactant | 2-amino-N-(1-benzyl-5-(4-fluorophenyl)-1H-1,2,4-triazol-3-yl)-2-methylpropanamide | 2.83 mmol, 1.000 g | NC(C(=O)NC1=NN(C(=N1)C1=CC=C(C=C1)F)CC1=CC=CC=C1)(C)C | C19H20FN5O
reactant | (S)-1-methylpyrrolidine-2-carboxylic acid | 3.11 mmol, 0.402 g | CN1[C@@H](CCC1)C(=O)O | C6H11NO2
reactant | HATU | 5.66 mmol, 2.152 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 5.66 mmol, 0.789 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 30 mL | O | H2O
solvent | DCM | 14.29 ml | C(Cl)Cl | CH2Cl2
product | (S)-1-Methyl-pyrrolidine-2-carboxylic acid {1-[1-benzyl-5-(4-fluoro-phenyl)-1H-[1,2,4]-triazol-3-ylcarbamoyl]-1-methyl-ethyl}-amide | C(C1=CC=CC=C1)N1N=C(N=C1C1=CC=C(C=C1)F)NC(=O)C(C)(C)NC(=O)[C@H]1N(CCC1)C | C25H29FN6O2
